US04076820
1-(1,3,4,6,7,11b-Hexahydro-9,10-dimethoxy-2H-benzo[a]quinolizin-2-yl)-1,3-diphenyl urea
By a procedure analogous to that of Example 1, 2-anilino-1,3,4,6,7,11b-hexahydro-9,10-dimethoxy-2H-benzo[a]quinolizine (U.S. Pat. No. 3,634,431) is reacted with phenyl isocyanate to give the title compound.

reactant | 2-anilino-1,3,4,6,7,11b-hexahydro-9,10-dimethoxy-2H-benzo[a]quinolizine | N(C1=CC=CC=C1)C1CCN2CCC3=C(C2C1)C=C(C(=C3)OC)OC | C21H26N2O2
reactant | phenyl isocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
product | 1-(1,3,4,6,7,11b-Hexahydro-9,10-dimethoxy-2H-benzo[a]quinolizin-2-yl)-1,3-diphenyl urea | COC1=CC2=C(C3CC(CCN3CC2)N(C(=O)NC2=CC=CC=C2)C2=CC=CC=C2)C=C1OC | C28H31N3O3
